US08138181B2
Step 2A: Preparation of ethyl 7-(2-methoxyethoxy)imidazo[1,2-a]pyridine-3-carboxylate:
Ethyl 2-chloro-3-oxopropanoate (5.1 g, 33.9 mmol, Heterocycles 1991, pg. 699) and 4-(2-methoxyethoxy)pyridin-2-amine (5.70 g, 33.9 mmol) was dissolved in EtOH (50 mL) and heated to reflux overnight. The crude reaction mixture was concentrated and purified by flash column chromatography (EtOAc/MeOH 10:0 to 10:1) provided the desired product (57%).

reactant | Ethyl 2-chloro-3-oxopropanoate | ClC(C(=O)OCC)C=O | C5H7ClO3
reactant | 4-(2-methoxyethoxy)pyridin-2-amine | 33.9 mmol, 5.70 g | COCCOC1=CC(=NC=C1)N | C8H12N2O2
solvent | EtOH | 50 mL | CCO | C2H6O
product | ethyl 7-(2-methoxyethoxy)imidazo[1,2-a]pyridine-3-carboxylate | 57% | COCCOC1=CC=2N(C=C1)C(=CN2)C(=O)OCC | C13H16N2O4
